US04935507
To a suspension of 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer)(4.26 g) in water (26 ml) was added conc. hydrochloric acid (4.26 ml) at room temperature, then the mixture was stirred under ice-cooling for 1 hour. The solvent was removed by decantation and resultant oily precipitates were triturated with diethyl ether, acetone and n-hexane. The resultant powder was collected by filtration to give 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer)(4.30 g).

reactant | 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 4.26 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NO | C14H13N5O5S2
reactant | hydrochloric acid | 4.26 ml | Cl | ClH
solvent | water | 26 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid hydrochloride | 4.30 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NO | InChI=1S/C14H13N5O5S2.ClH/c1-2-5-3-25-12-8(11(21)19(12)9(5)13(22)23)17-10(20)7(18-24)6-4-26-14(15)16-6;/h2,4,8,12,24H,1,3H2,(H2,15,16)(H,17,20)(H,22,23);1H/t8?,12-;/m1./s1
